### PR TITLE
[Merged by Bors] - fix: add missing instantiateMVars in split_ifs

### PR DESCRIPTION
**Pull request by dwrensha**
Fixes the bug reported on zulip [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/split_ifs/near/445173774).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicNumbers.lean [hunk 1]
```diff
@@ -124,7 +124,6 @@ theorem norm_zero_iff (f : PadicSeq p) : f.norm = 0 ↔ f ≈ 0 := by
     by_contra hf
     unfold norm at h
     split_ifs at h
-    · contradiction
```
Comment (dwrensha) [inline Mathlib/NumberTheory/Padics/PadicNumbers.lean:127]: The proof now matches the mathlib3 version more closely:
https://github.com/leanprover-community/mathlib/blob/65a1391a0106c9204fe45bc73a039f056558cb83/src/number_theory/padics/padic_numbers.lean#L118-L119

File: Mathlib/NumberTheory/Padics/PadicNumbers.lean [hunk 2]
```diff
@@ -609,7 +608,6 @@ theorem defn (f : PadicSeq p) {ε : ℚ} (hε : 0 < ε) :
     rw [PadicSeq.norm, dif_pos h] at hge
     exact not_lt_of_ge hge hε
   unfold PadicSeq.norm at hge; split_ifs at hge
-  · exact not_le_of_gt hε hge
```
Comment (dwrensha) [inline Mathlib/NumberTheory/Padics/PadicNumbers.lean:612]: The proof now matches the mathlib3 version more closely: https://github.com/leanprover-community/mathlib/blob/65a1391a0106c9204fe45bc73a039f056558cb83/src/number_theory/padics/padic_numbers.lean#L505

**Comment by robertylewis** [comment]
bors merge
